US05252747
Alternate preparation of (2S,4S)-1-BOC-4-Amino-2-methylpyrrolidine
To a 90 g (0.322 mol) sample of (2S,4R)-1BOC-4-methanesulfonyloxy-2-methylpyrrolidine, prepared as described in U.S. Pat. No. 4,962,112, was added 345 g (3.22 mol) of benzylamine, and the solution was heated at 100° C. under N2 for 8 hours. The solution was cooled to room temperature and the excess benzylamine removed under vacuum. The residue was dissolved in ethyl acetate and washed with water. The product was then extracted into 1.0M citric acid, which was then adjusted to pH 11.5 with conc. ammonium hydroxide solution. The product was extracted into ethyl acetate, which was dried over Na2SO4, filtered, and concentrated. After drying, 76.2 g (81.5% yield) of the title product was obtained as a yellow oil.

reactant | (2S,4R)-1BOC-4-methanesulfonyloxy-2-methylpyrrolidine | C(=O)(OC(C)(C)C)N1[C@H](C[C@H](C1)OS(=O)(=O)C)C | C11H21NO5S
reactant | benzylamine | 3.22 mol, 345 g | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4S)-1-BOC-4-Amino-2-methylpyrrolidine | 76.2 g, 81.5% yield | C(=O)(OC(C)(C)C)N1[C@H](C[C@@H](C1)N)C | C10H20N2O2
